US04889935
2-[1-[3-(2-Quinolinylmethoxy)phenyl]ethylidene]hydrazinecarboximidamide
In a similar manner to Example 1A and using 2-chloromethyl quinoline, 3-(2-quinolinylmethoxy)acetophenone is prepared (13.1 g, m.p. 57°-59° C., 47% yield). This product is reacted with amino guanidine bicarbonate as in 1B above to give 2.35 g of product (65% yield), m.p. 168°-170° C.

reactant | 2-chloromethyl quinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | amino guanidine bicarbonate | C(O)(O)=O.NNC(=N)N
product | 2-[1-[3-(2-Quinolinylmethoxy)phenyl]ethylidene]hydrazinecarboximidamide | 2.35 g, 65% yield | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(C)=NNC(N)=N | C19H19N5O
